US07868188B2
N-{2-Chloro-5-[2-(3-ethylureido)-4-methyl-1,3-thiazol-5-yl]pyridin-3-yl}methanesulfonamide
Ethyl isocyanate (0.036 mL) was added to a stirred solution of N-[5-(2-amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]methanesulfonamide (48 mg) in THF (0.5 mL) and the mixture was placed in a sealed glass reaction vessel and heated to 125° C. in a microwave reactor for 1 hour. The resultant mixture was evaporated and the residue was purified by column chromatography on silica using a solvent gradient of 0% to 6% methanol in dichloromethane as eluent. The material so obtained was purified further by preparative HPLC on reversed-phase silica using a solvent gradient of 10% to 100% acetonitrile in water (containing 1% acetic acid) as eluent. The material so obtained was triturated under diethyl ether. There was thus obtained the title compound as a solid (16 mg); 1H NMR Spectrum: (DMSOd6) 1.07 (t, 3H), 2.31 (s, 3H), 3.1, (s, 3H), 3.10-3.20 (m, 2H), 6.54 (br s, 11H), 7.82 (d, 1H), 8.24 (s, 1H), 9.84 (s, 1H), 10.53 (s, 1H); Mass Spectrum: M+H+ 390.

reactant | Ethyl isocyanate | 0.036 mL | C(C)N=C=O | C3H5NO
reactant | N-[5-(2-amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]methanesulfonamide | 48 mg | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C | C10H11ClN4O2S2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-{2-Chloro-5-[2-(3-ethylureido)-4-methyl-1,3-thiazol-5-yl]pyridin-3-yl}methanesulfonamide | 16 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=C(N=C(S1)NC(=O)NCC)C | C13H16ClN5O3S2
